US04299829
A solution of 2-methyl-7-[2-hexyloxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-hexyloxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (5.3 g) and concentrated hydrochloric acid (4.2 g) in a mixture of methanol (53 ml) and tetrahydrofuran (40 ml) was stirred for 2 hours at 30° C., and then evaporated to dryness. The residue was dissolved in an aqueous solution of sodium bicarbonate (500 ml) and then filtered. The filtrate was adjusted to pH 3.5 with 10% hydrochloric acid with stirring under ice-cooling and further stirred for 30 minutes at the same temperature. The precipitates were collected by filtration, washed with water and then dried to give 2-methyl-7-[2-hexyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-hexyloxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (4.45 g).

reactant | 2-methyl-7-[2-hexyloxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)NC=O)=NOCCCCCC)=O)=O | C20H25N5O6S2
reactant | 2-methyl-7-[2-hexyloxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 5.3 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2NC(SC2)=NC=O)=NOCCCCCC)=O)=O | C20H25N5O6S2
reactant | hydrochloric acid | 4.2 g | Cl | ClH
solvent | methanol | 53 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-methyl-7-[2-hexyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOCCCCCC)=O)=O | C19H25N5O5S2
